US09126980B2
Step 4: Preparation of (S)-1-(2-(3-(hydroxymethyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)-4-nitrophenyl)-5-methyl-1H-pyrazole-3-carboxylic acid
To a solution of (S)-ethyl 1-(2-(3-(hydroxymethyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)-4-nitrophenyl)-5-methyl-1H-pyrazole-3-carboxylate (18.0 g, 38.8 mmol) in THF (30 mL) and water (20 mL) was added lithium hydroxide monohydrate (5.0 g, 116.8 mmol) followed by stirring at RT for 6 h. The reaction mixture was concentrated invacuo, diluted with water (80 mL) and extracted with diethyl ether (100 mL). The aq. layer was cooled to 0° C., acidified up to pH ˜4 using 3N HCl and extracted with EtOAc (200 mL×2) twice. The combined organic layers were washed with water (200 mL), brine (100 mL), dried over sodium sulphate and concentrated invacuo. The residue was purified on silica gel (100-200 mesh) to afford the title compound as a white colored solid 14 g (82%). Rf=0.25 (70% EtOAc in hexane); 1H NMR (400 MHz, DMSO-d6): δ 12.90-12.50 (brs, 1H), 8.64-8.30 (m, 2H), 8.06-7.72 (m, 1H), 7.24-6.82 (m, 4H), 6.80-6.42 (m, 1H), 5.20-3.80 (m, 6H), 3.40-2.40 (m, 2H), 2.40-2.10 (m, 3H); ES-MS: m/z 437.2 (M+H).

reactant | (S)-ethyl 1-(2-(3-(hydroxymethyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)-4-nitrophenyl)-5-methyl-1H-pyrazole-3-carboxylate | 38.8 mmol, 18.0 g | OC[C@H]1N(CC2=CC=CC=C2C1)C(=O)C1=C(C=CC(=C1)[N+](=O)[O-])N1N=C(C=C1C)C(=O)OCC | C24H24N4O6
reactant | lithium hydroxide monohydrate | 116.8 mmol, 5.0 g | O.[OH-].[Li+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | (S)-1-(2-(3-(hydroxymethyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)-4-nitrophenyl)-5-methyl-1H-pyrazole-3-carboxylic acid | 14 g, 82% | OC[C@H]1N(CC2=CC=CC=C2C1)C(=O)C1=C(C=CC(=C1)[N+](=O)[O-])N1N=C(C=C1C)C(=O)O | C22H20N4O6
